US06610701B2
To a suspension of Raney Nickel (ca. 3 pipettes of suspension in water, washed/decanted with EtOH several times) in MeOH saturated with NH3 (200 ml) was added 3-[1,2,4]Triazol-1-yl-pyridine-2-carbonitrile (3.745 g, 21.88 mmol). The mixture was hydrogenated at 55 Psi for 18 h. The reaction mixture was filtered on celite under a flow of argon and the filtrate was concentrated in vacuo. To a solution of the crude material in CH2Cl2 (100 ml) and MeOH (10 ml) was added di-tert-butyl dicarbonate (6.2 g, 28.4 mmol) and the reaction mixture was stirred at room temperature for 30 min. The crude product obtained by concentration in vacuo is purified by flash chromatography (silica gel, 2% MeOH containing 10% NH4OH in CH2Cl2 to 6%) to give (3-[1,2,4]Triazol-1-yl-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester. 1H NMR (CDCl3, 400 MHz) δ8.72 (d, J=4.8 Hz, 1H); 8.42 (s, 1H); 8.18 (s, 1H); 7.70 (d, J=7.6 Hz, 1H); 7.40 (dd, J=4.8, 7.6 Hz, 1H); 5.85 (bs, 1H); 4.43 (d, J=5.4 Hz, 2H); 1.45 (s, 9H).

reactant | NH3 | 200 ml | N | H3N
reactant | 3-[1,2,4]Triazol-1-yl-pyridine-2-carbonitrile | 21.88 mmol, 3.745 g | N1(N=CN=C1)C=1C(=NC=CC1)C#N | C8H5N5
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | di-tert-butyl dicarbonate | 28.4 mmol, 6.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | Raney Nickel | [Ni] | Ni
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 ml | CO | CH4O
product | (3-[1,2,4]Triazol-1-yl-pyridin-2-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=NC=CC=C1N1N=CN=C1)=O | C13H17N5O2
